US08242107B2
Step 1: 2-Bromo-1-(octahydro-quinolin-1-yl)-ethanone
To an ice cooled suspension of 2.15 g (15 mmol) of decahydroquinoline, 5.20 g (37.5 mmol) of potassium carbonate in 30 ml of methylene chloride was added 3.10 g (15 mmol) of bromoacetylbromide. Then the reaction mixture was stirred at RT for 20 h. Water was added, the mixture extracted by methylene chloride, the organic phase washed by water, dried over sodium sulphate and evaporated to dryness. Flash chromatography using methylene chloride as eluant afforded 2.6 g of compound as uncolorless oil.

reactant | decahydroquinoline | 15 mmol, 2.15 g | N1CCCC2CCCCC12 | C9H17N
reactant | potassium carbonate | 37.5 mmol, 5.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetylbromide | 15 mmol, 3.10 g | BrCC(=O)Br | C2H2Br2O
reactant | Water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-(octahydro-quinolin-1-yl)-ethanone | 2.6 g | BrCC(=O)N1CCCC2CCCCC12 | C11H18BrNO
